US09212182B2
A RBF, fitted with a reflux condenser, was charged with (E)-ethyl 3-(5-(benzylthio)-2-((5-bromo-2-methoxyphenyl)amino)phenyl)acrylate (6.92 g, 13.88 mmol) and MeOH (69.4 ml) to give a yellow suspension. Sodium methoxide (0.5N solution in methanol) (11.11 ml, 5.55 mmol) was added and the reaction was heated at 70° C. overnight. The reaction was cooled to RT and the solids were filtered over a fit and washed well with MeOH to yield 6-(benzylthio)-1-(5-bromo-2-methoxyphenyl)quinolin-2(1H)-one (5.48 g, 12.11 mmol, 87 Yo yield) as a tan solid. MS (ESI, pos. ion) m/z: [M+1] 452.0

reactant | (E)-ethyl 3-(5-(benzylthio)-2-((5-bromo-2-methoxyphenyl)amino)phenyl)acrylate | 13.88 mmol, 6.92 g | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)/C=C/C(=O)OCC)NC1=C(C=CC(=C1)Br)OC | C25H24BrNO3S
reactant | Sodium methoxide | 5.55 mmol, 0.5N, 11.11 ml | C[O-].[Na+]
solvent | MeOH | 69.4 ml | CO | CH4O
product | 6-(benzylthio)-1-(5-bromo-2-methoxyphenyl)quinolin-2(1H)-one | 12.11 mmol, 5.48 g | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C1=C(C=CC(=C1)Br)OC)=O | C23H18BrNO2S
